US04339449
A mixture of benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-azidoacetate (2.856 g.) and 10% palladium on carbon (600 mg.) in formic acid (27 ml.) was stirred at room temperature under hydrogen atmosphere. After stirring for an hour, to the mixture was added 5% palladium on carbon (600 mg.) in formic acid (8 ml.) and stirred under hydrogen atmosphere for additional 2.5 hours. The resultant mixture was filtered through a pad of Celite and the filter cake was washed with methylene chloride. The filtrate and washings were combined and concentrated in vacuo to a volume of 15 ml. A part of this concentrate was evaporated to dryness to give benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-aminoacetate.

reactant | benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-azidoacetate | 2.856 g | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SC(=O)OCC(Cl)(Cl)Cl)C(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])=O | C23H20Cl3N5O7S
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
solvent | formic acid | 27 ml | C(=O)O | CH2O2
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
solvent | formic acid | 8 ml | C(=O)O | CH2O2
product | benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-aminoacetate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SC(=O)OCC(Cl)(Cl)Cl)C(C(=O)OCC1=CC=CC=C1)N)=O | C23H22Cl3N3O7S
